* File: G4_XOR2_N3.pex.netlist.pex
* Created: Sun Apr 10 19:09:34 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G4_XOR2_N3_VSS 2 5 9 12 14 16 32 33 42 43 54 59 63 66 71 76 81 86 95
+ 100 113 115 116 117 122 123 128 138 140 145 146 147 150 Vss
c92 148 Vss 6.20041e-19
c93 147 Vss 3.75522e-19
c94 146 Vss 4.28045e-19
c95 145 Vss 0.00444873f
c96 140 Vss 0.00219072f
c97 138 Vss 0.00853623f
c98 128 Vss 0.00370986f
c99 123 Vss 8.46757e-19
c100 122 Vss 0.00174135f
c101 117 Vss 8.2479e-19
c102 116 Vss 0.00447709f
c103 115 Vss 0.00650684f
c104 113 Vss 0.00239513f
c105 100 Vss 0.00529998f
c106 95 Vss 0.00418654f
c107 86 Vss 2.86598e-19
c108 81 Vss 0.00160268f
c109 76 Vss 0.0010261f
c110 71 Vss 0.00123398f
c111 66 Vss 0.00174721f
c112 63 Vss 0.0101876f
c113 59 Vss 0.00691967f
c114 54 Vss 0.0100924f
c115 43 Vss 0.0342915f
c116 42 Vss 0.100071f
c117 33 Vss 0.0350852f
c118 32 Vss 0.0990727f
c119 14 Vss 0.00143493f
c120 9 Vss 0.384391f
c121 5 Vss 0.378692f
r122 145 150 0.326018
r123 144 145 5.50157
r124 140 144 0.655813
r125 139 148 0.494161
r126 138 150 0.326018
r127 138 139 13.0037
r128 134 148 0.128424
r129 129 147 0.494161
r130 128 148 0.494161
r131 128 129 7.46046
r132 124 147 0.128424
r133 122 147 0.494161
r134 122 123 4.37625
r135 118 146 0.0828784
r136 116 130 0.652036
r137 116 117 10.1279
r138 115 123 0.652036
r139 114 146 0.551426
r140 114 115 17.1716
r141 113 146 0.551426
r142 112 117 0.652036
r143 112 113 5.79332
r144 86 140 1.82344
r145 81 134 6.16843
r146 76 100 1.16709
r147 76 130 2.16729
r148 71 95 1.16709
r149 71 124 2.16729
r150 66 118 1.82344
r151 63 86 1.16709
r152 59 81 1.16709
r153 54 66 1.16709
r154 45 100 0.119107
r155 43 45 1.45875
r156 42 46 0.652036
r157 42 45 1.45875
r158 39 43 0.652036
r159 35 95 0.0476429
r160 33 35 1.45875
r161 32 36 0.652036
r162 32 35 1.45875
r163 29 33 0.652036
r164 16 63 0.123773
r165 14 59 0.123773
r166 12 59 0.123773
r167 9 46 5.1348
r168 9 39 5.1348
r169 5 36 5.1348
r170 5 29 5.1348
r171 2 54 0.123773
.ends

.subckt PM_G4_XOR2_N3_VDD 3 6 8 11 14 16 32 42 43 54 59 66 68 69 70 73 75 76 79
+ 81 85 89 91 93 98 99 100 103 109 114 123 Vss
c98 123 Vss 0.00813195f
c99 114 Vss 0.00444328f
c100 109 Vss 0.00562387f
c101 101 Vss 8.87755e-19
c102 100 Vss 2.39889e-19
c103 99 Vss 4.52364e-19
c104 98 Vss 0.0063791f
c105 93 Vss 0.00162315f
c106 91 Vss 0.0131786f
c107 89 Vss 0.00230903f
c108 85 Vss 7.1324e-19
c109 81 Vss 0.00459876f
c110 79 Vss 0.00140429f
c111 76 Vss 8.64616e-19
c112 75 Vss 0.00587269f
c113 73 Vss 0.00191373f
c114 70 Vss 8.68689e-19
c115 69 Vss 0.00224797f
c116 68 Vss 0.00279777f
c117 66 Vss 0.0108403f
c118 59 Vss 0.00695462f
c119 54 Vss 0.00822951f
c120 43 Vss 0.0351405f
c121 42 Vss 0.100972f
c122 33 Vss 0.0359366f
c123 32 Vss 0.100971f
c124 14 Vss 0.00143493f
c125 11 Vss 0.377105f
c126 3 Vss 0.384936f
r127 98 103 0.349767
r128 97 98 5.75164
r129 95 123 1.16709
r130 93 103 0.306046
r131 93 95 1.82344
r132 92 101 0.494161
r133 91 97 0.652036
r134 91 92 13.0037
r135 87 101 0.128424
r136 87 89 6.46018
r137 85 114 1.16709
r138 83 85 2.16729
r139 82 100 0.494161
r140 81 101 0.494161
r141 81 82 7.46046
r142 79 109 1.16709
r143 77 100 0.128424
r144 77 79 2.16729
r145 75 83 0.652036
r146 75 76 10.1279
r147 71 99 0.0828784
r148 71 73 1.82344
r149 69 100 0.494161
r150 69 70 4.37625
r151 68 76 0.652036
r152 67 99 0.551426
r153 67 68 5.50157
r154 66 99 0.551426
r155 65 70 0.652036
r156 65 66 17.4633
r157 63 123 0.05
r158 59 89 1.16709
r159 54 73 1.02121
r160 45 114 0.0476429
r161 43 45 1.45875
r162 42 46 0.652036
r163 42 45 1.45875
r164 39 43 0.652036
r165 35 109 0.119107
r166 33 35 1.45875
r167 32 36 0.652036
r168 32 35 1.45875
r169 29 33 0.652036
r170 16 63 0.123773
r171 14 59 0.123773
r172 11 46 5.1348
r173 11 39 5.1348
r174 8 59 0.123773
r175 6 54 0.123773
r176 3 36 5.1348
r177 3 29 5.1348
.ends

.subckt PM_G4_XOR2_N3_A 2 4 7 10 21 24 28 48 51 54 57 62 67 72 77 85 Vss
c54 85 Vss 8.24403e-19
c55 77 Vss 0.00191043f
c56 72 Vss 0.00680655f
c57 67 Vss 0.00366581f
c58 62 Vss 0.00280314f
c59 57 Vss 0.00457389f
c60 51 Vss 0.00108099f
c61 48 Vss 0.128068f
c62 43 Vss 0.0296639f
c63 28 Vss 0.152693f
c64 24 Vss 8.47557e-20
c65 21 Vss 0.173351f
c66 18 Vss 0.180502f
c67 16 Vss 0.0247918f
c68 10 Vss 0.176342f
c69 7 Vss 0.432086f
c70 4 Vss 0.193054f
r71 81 85 0.653045
r72 62 77 1.16709
r73 62 85 4.9014
r74 57 72 1.16709
r75 57 81 10.8364
r76 51 67 1.16709
r77 51 54 0.0833571
r78 47 72 0.0238214
r79 47 48 2.334
r80 44 47 2.20433
r81 39 77 0.50025
r82 33 48 0.00605528
r83 31 44 0.00605528
r84 29 43 0.494161
r85 28 30 0.652036
r86 28 29 4.84305
r87 25 43 0.128424
r88 24 67 0.0476429
r89 22 24 0.326018
r90 22 24 0.1167
r91 21 43 0.494161
r92 21 24 6.7686
r93 18 67 0.357321
r94 16 24 0.326018
r95 16 18 0.40845
r96 10 39 4.668
r97 7 33 5.1348
r98 7 31 5.1348
r99 7 30 5.1348
r100 4 25 5.1348
r101 2 18 4.72635
.ends

.subckt PM_G4_XOR2_N3_NET1 2 4 7 10 31 35 41 44 49 58 76 Vss
c34 76 Vss 3.97901e-19
c35 58 Vss 0.0058132f
c36 49 Vss 0.00651255f
c37 44 Vss 0.00236298f
c38 41 Vss 0.00514975f
c39 35 Vss 0.103147f
c40 31 Vss 0.12549f
c41 10 Vss 0.269166f
c42 7 Vss 0.499657f
c43 4 Vss 0.00143493f
r44 72 76 0.655813
r45 49 58 1.16709
r46 49 76 12.1076
r47 44 72 3.62604
r48 41 44 1.16709
r49 33 35 1.70187
r50 30 58 0.142929
r51 30 31 2.20433
r52 27 30 2.334
r53 25 35 0.17282
r54 24 31 0.00605528
r55 21 33 0.17282
r56 18 27 0.00605528
r57 10 21 7.64385
r58 7 25 7.29375
r59 7 24 5.1348
r60 7 18 5.1348
r61 4 41 0.123773
r62 2 41 0.123773
.ends

.subckt PM_G4_XOR2_N3_NET2 2 4 6 9 21 22 33 39 42 47 56 74 Vss
c42 74 Vss 3.21991e-19
c43 56 Vss 0.00502059f
c44 47 Vss 0.00781175f
c45 42 Vss 0.00242715f
c46 39 Vss 0.00509494f
c47 33 Vss 0.12909f
c48 22 Vss 0.0345713f
c49 21 Vss 0.177367f
c50 9 Vss 0.573605f
c51 6 Vss 0.188648f
c52 4 Vss 0.00143493f
r53 70 74 0.660011
r54 47 56 1.16709
r55 47 74 11.3611
r56 42 70 3.29261
r57 39 42 1.16709
r58 32 56 0.0238214
r59 32 33 2.26917
r60 29 32 2.26917
r61 26 33 0.00605528
r62 24 29 0.00605528
r63 21 23 0.652036
r64 21 22 4.84305
r65 18 22 0.652036
r66 9 26 5.1348
r67 9 24 5.1348
r68 9 23 10.0362
r69 6 18 5.1348
r70 4 39 0.123773
r71 2 39 0.123773
.ends

.subckt PM_G4_XOR2_N3_B 2 4 7 10 19 20 28 31 35 45 51 54 Vss
c31 54 Vss 0.0283542f
c32 51 Vss 0.00177471f
c33 45 Vss 0.13328f
c34 35 Vss 0.154928f
c35 31 Vss 2.04877e-19
c36 28 Vss 0.117534f
c37 20 Vss 0.0348422f
c38 19 Vss 0.173065f
c39 10 Vss 0.264298f
c40 7 Vss 0.440555f
c41 4 Vss 0.189408f
c42 2 Vss 0.201403f
r43 51 54 1.16709
r44 43 45 4.53833
r45 38 45 0.00605528
r46 35 47 1.87725
r47 33 47 0.527901
r48 32 43 0.00605528
r49 31 54 0.181909
r50 29 54 0.494161
r51 29 31 0.1167
r52 28 47 0.333556
r53 28 31 4.72635
r54 23 54 0.128424
r55 23 54 0.40845
r56 22 54 0.181909
r57 20 22 6.7686
r58 19 54 0.494161
r59 19 22 0.1167
r60 16 20 0.652036
r61 10 35 7.5855
r62 7 38 5.1348
r63 7 33 5.42655
r64 7 32 5.1348
r65 4 54 5.0181
r66 2 16 5.42655
.ends

.subckt PM_G4_XOR2_N3_Z 2 4 6 8 23 27 30 33 Vss
c29 30 Vss 0.00322833f
c30 27 Vss 0.00675283f
c31 23 Vss 0.00497092f
c32 8 Vss 0.00143493f
c33 6 Vss 0.00143493f
r34 33 35 4.95975
r35 30 33 6.71025
r36 27 35 1.16709
r37 23 30 1.16709
r38 8 27 0.123773
r39 6 23 0.123773
r40 4 27 0.123773
r41 2 23 0.123773
.ends

