* File: G5_XOR3_N3.pex.netlist.pex
* Created: Fri Apr  1 15:48:12 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G5_XOR3_N3_VDD 2 5 9 12 14 17 34 35 44 45 54 55 65 69 74 77 79 80 81
+ 84 86 90 93 96 98 102 104 108 112 114 116 118 119 125 134 139 Vss
c113 139 Vss 0.00510833f
c114 134 Vss 0.00495479f
c115 125 Vss 0.00566756f
c116 119 Vss 2.39889e-19
c117 118 Vss 4.92173e-19
c118 117 Vss 5.50975e-19
c119 114 Vss 4.52364e-19
c120 112 Vss 0.00180866f
c121 108 Vss 0.00116218f
c122 104 Vss 0.00632073f
c123 102 Vss 0.0010418f
c124 98 Vss 0.00598007f
c125 96 Vss 0.00126332f
c126 93 Vss 0.00323042f
c127 90 Vss 0.00584753f
c128 86 Vss 0.00654417f
c129 84 Vss 0.00154142f
c130 81 Vss 8.68392e-19
c131 80 Vss 0.00938293f
c132 79 Vss 0.0122224f
c133 77 Vss 0.00304889f
c134 74 Vss 0.00820121f
c135 69 Vss 0.00836757f
c136 65 Vss 0.00811483f
c137 55 Vss 0.0356247f
c138 54 Vss 0.10084f
c139 45 Vss 0.0356281f
c140 44 Vss 0.101312f
c141 35 Vss 0.0346562f
c142 34 Vss 0.0991017f
c143 17 Vss 0.378774f
c144 9 Vss 0.379342f
c145 5 Vss 0.383323f
r146 110 112 6.16843
r147 108 139 1.16709
r148 106 108 2.16729
r149 105 119 0.494161
r150 104 110 0.652036
r151 104 105 7.46046
r152 102 134 1.16709
r153 100 119 0.128424
r154 100 102 2.16729
r155 99 118 0.494161
r156 98 106 0.652036
r157 98 99 10.3363
r158 94 117 0.0828784
r159 94 96 2.00578
r160 93 118 0.128424
r161 92 117 0.551426
r162 92 93 5.50157
r163 90 125 1.16709
r164 88 117 0.551426
r165 88 90 7.66886
r166 87 116 0.326018
r167 86 118 0.494161
r168 86 87 10.1279
r169 82 114 0.0828784
r170 82 84 1.82344
r171 80 119 0.494161
r172 80 81 15.8795
r173 79 116 0.326018
r174 78 114 0.551426
r175 78 79 18.3386
r176 77 114 0.551426
r177 76 81 0.652036
r178 76 77 5.50157
r179 74 112 1.16709
r180 69 96 1.16709
r181 65 84 1.16709
r182 57 139 0.0476429
r183 55 57 1.45875
r184 54 58 0.652036
r185 54 57 1.45875
r186 51 55 0.652036
r187 47 134 0.0476429
r188 45 47 1.45875
r189 44 48 0.652036
r190 44 47 1.45875
r191 41 45 0.652036
r192 37 125 0.238214
r193 35 37 1.45875
r194 34 38 0.652036
r195 34 37 1.45875
r196 31 35 0.652036
r197 17 58 5.1348
r198 17 51 5.1348
r199 14 74 0.123773
r200 12 69 0.123773
r201 9 48 5.1348
r202 9 41 5.1348
r203 5 38 5.1348
r204 5 31 5.1348
r205 2 65 0.123773
.ends

.subckt PM_G5_XOR3_N3_C 2 4 6 8 17 20 23 32 37 40 44 47 52 57 84 92 98 Vss
c49 98 Vss 3.22849e-19
c50 92 Vss 0.00543331f
c51 84 Vss 0.00847968f
c52 57 Vss 0.004971f
c53 52 Vss 7.31044e-19
c54 47 Vss 9.97921e-19
c55 40 Vss 0.00163759f
c56 37 Vss 0.0082356f
c57 32 Vss 0.00958317f
c58 23 Vss 2.04877e-19
c59 20 Vss 0.221837f
c60 17 Vss 0.180502f
c61 15 Vss 0.0247918f
c62 4 Vss 0.188411f
r63 93 98 0.441572
r64 92 94 0.655813
r65 92 93 9.04425
r66 88 98 0.174814
r67 84 98 0.441572
r68 52 94 3.33429
r69 47 88 3.33429
r70 40 57 1.16709
r71 40 84 22.1365
r72 40 44 0.0416786
r73 37 52 1.16709
r74 32 47 1.16709
r75 23 57 0.0476429
r76 21 23 0.326018
r77 21 23 0.1167
r78 20 24 0.652036
r79 20 23 6.7686
r80 17 57 0.357321
r81 15 23 0.326018
r82 15 17 0.40845
r83 8 37 0.123773
r84 6 32 0.123773
r85 4 24 5.1348
r86 2 17 4.72635
.ends

.subckt PM_G5_XOR3_N3_VSS 3 6 8 11 15 18 34 37 44 45 54 55 57 66 70 73 78 83 88
+ 93 98 107 112 121 123 124 125 130 131 136 142 145 154 155 156 Vss
c110 156 Vss 3.75522e-19
c111 155 Vss 3.91906e-19
c112 154 Vss 4.4306e-19
c113 142 Vss 0.00252991f
c114 136 Vss 0.00380695f
c115 131 Vss 8.45126e-19
c116 130 Vss 0.00638861f
c117 125 Vss 8.42189e-19
c118 124 Vss 0.0059194f
c119 123 Vss 0.00432257f
c120 121 Vss 0.00374747f
c121 112 Vss 0.00407665f
c122 107 Vss 0.00420294f
c123 98 Vss 0.00605485f
c124 93 Vss 0.00198064f
c125 88 Vss 8.56162e-19
c126 83 Vss 0.00102135f
c127 78 Vss 0.00266782f
c128 73 Vss 0.00352975f
c129 70 Vss 0.0100681f
c130 66 Vss 0.00715185f
c131 57 Vss 9.01088e-20
c132 55 Vss 0.0347733f
c133 54 Vss 0.0999406f
c134 45 Vss 0.035088f
c135 44 Vss 0.0994129f
c136 37 Vss 5.39995e-20
c137 35 Vss 0.0349058f
c138 34 Vss 0.100344f
c139 15 Vss 0.379408f
c140 11 Vss 0.379783f
c141 8 Vss 0.00143493f
c142 3 Vss 0.3841f
r143 143 156 0.494161
r144 143 145 6.62689
r145 142 150 0.652036
r146 142 145 0.833571
r147 138 156 0.128424
r148 137 155 0.494161
r149 136 146 0.652036
r150 136 137 7.46046
r151 132 155 0.128424
r152 130 156 0.494161
r153 130 131 15.8795
r154 126 154 0.0828784
r155 124 155 0.494161
r156 124 125 13.0037
r157 123 131 0.652036
r158 122 154 0.551426
r159 122 123 13.8373
r160 121 154 0.551426
r161 120 125 0.652036
r162 120 121 10.0029
r163 93 150 6.16843
r164 88 112 1.16709
r165 88 146 2.16729
r166 83 107 1.16709
r167 83 138 2.16729
r168 78 132 6.16843
r169 73 98 1.16709
r170 73 126 4.33978
r171 70 93 1.16709
r172 66 78 1.16709
r173 57 112 0.0476429
r174 55 57 1.45875
r175 54 58 0.652036
r176 54 57 1.45875
r177 51 55 0.652036
r178 47 107 0.0476429
r179 45 47 1.45875
r180 44 48 0.652036
r181 44 47 1.45875
r182 41 45 0.652036
r183 37 98 0.238214
r184 35 37 1.45875
r185 34 38 0.652036
r186 34 37 1.45875
r187 31 35 0.652036
r188 18 70 0.123773
r189 15 58 5.1348
r190 15 51 5.1348
r191 11 48 5.1348
r192 11 41 5.1348
r193 8 66 0.123773
r194 6 66 0.123773
r195 3 38 5.1348
r196 3 31 5.1348
.ends

.subckt PM_G5_XOR3_N3_CI 2 4 6 8 23 26 31 34 39 44 79 80 82 84 89 Vss
c52 95 Vss 8.92453e-20
c53 89 Vss 0.00607467f
c54 84 Vss 1.6915e-19
c55 83 Vss 1.82188e-19
c56 82 Vss 0.00167496f
c57 80 Vss 4.34795e-19
c58 79 Vss 0.00544906f
c59 44 Vss 7.72828e-19
c60 39 Vss 9.91594e-19
c61 34 Vss 0.00323815f
c62 31 Vss 0.00967911f
c63 26 Vss 0.00811165f
c64 23 Vss 0.00522928f
c65 4 Vss 0.00143493f
r66 90 95 0.494161
r67 89 91 0.652036
r68 89 90 10.3363
r69 85 95 0.128424
r70 83 95 0.494161
r71 83 84 1.50043
r72 82 84 0.652036
r73 81 82 6.46018
r74 79 81 0.652036
r75 79 80 19.1721
r76 75 80 0.652036
r77 44 91 3.41764
r78 39 85 3.41764
r79 34 75 8.62746
r80 31 44 1.16709
r81 26 39 1.16709
r82 23 34 1.16709
r83 8 31 0.123773
r84 6 26 0.123773
r85 4 23 0.123773
r86 2 23 0.123773
.ends

.subckt PM_G5_XOR3_N3_A 2 4 7 11 24 44 45 49 51 54 55 57 59 62 67 72 Vss
c67 72 Vss 0.00561856f
c68 67 Vss 0.00509443f
c69 59 Vss 9.40202e-19
c70 57 Vss 0.00665603f
c71 55 Vss 6.2663e-19
c72 54 Vss 0.00565582f
c73 51 Vss 0.00800572f
c74 49 Vss 0.135088f
c75 45 Vss 0.128114f
c76 44 Vss 1.14131e-19
c77 24 Vss 0.221923f
c78 21 Vss 0.18375f
c79 19 Vss 0.0247918f
c80 7 Vss 1.43819f
c81 4 Vss 0.194116f
r82 64 67 1.16709
r83 62 64 0.0416786
r84 59 62 0.833571
r85 57 72 1.16709
r86 55 57 9.66422
r87 53 55 0.655813
r88 53 54 10.4613
r89 52 59 0.0685365
r90 51 54 0.652036
r91 51 52 10.2113
r92 47 49 4.53833
r93 44 72 0.0238214
r94 44 45 2.26917
r95 41 44 2.26917
r96 36 49 0.00605528
r97 35 45 0.00605528
r98 32 47 0.00605528
r99 31 41 0.00605528
r100 27 67 0.0952857
r101 25 27 0.326018
r102 25 27 0.1167
r103 24 28 0.652036
r104 24 27 6.7686
r105 21 27 0.3335
r106 19 27 0.326018
r107 19 21 0.2334
r108 11 36 5.1348
r109 11 32 5.1348
r110 7 11 17.9718
r111 7 35 5.1348
r112 7 11 17.9718
r113 7 31 5.1348
r114 4 28 5.1348
r115 2 21 4.9014
.ends

.subckt PM_G5_XOR3_N3_BI 2 4 6 8 18 21 29 32 37 42 51 56 65 71 72 80 Vss
c62 80 Vss 3.85169e-19
c63 72 Vss 3.10144e-19
c64 71 Vss 7.91966e-19
c65 65 Vss 0.00115548f
c66 56 Vss 0.00255458f
c67 51 Vss 0.0023957f
c68 42 Vss 0.00128972f
c69 37 Vss 0.00247226f
c70 32 Vss 0.00178645f
c71 29 Vss 0.00520864f
c72 21 Vss 0.166484f
c73 6 Vss 0.166668f
c74 4 Vss 0.00143493f
r75 76 80 0.655813
r76 71 72 0.655813
r77 70 71 3.501
r78 65 70 0.655813
r79 42 56 1.16709
r80 42 72 2.00578
r81 37 51 1.16709
r82 37 80 12.0712
r83 37 65 2.00578
r84 32 76 3.33429
r85 29 32 1.16709
r86 21 56 0.50025
r87 18 51 0.50025
r88 8 21 4.37625
r89 6 18 4.37625
r90 4 29 0.123773
r91 2 29 0.123773
.ends

.subckt PM_G5_XOR3_N3_AI 2 4 7 11 31 37 43 46 51 60 73 79 Vss
c44 79 Vss 2.91008e-19
c45 73 Vss 0.00515518f
c46 60 Vss 0.0064096f
c47 51 Vss 0.00263851f
c48 46 Vss 0.0021137f
c49 43 Vss 0.0046119f
c50 37 Vss 0.12791f
c51 31 Vss 0.131715f
c52 7 Vss 1.42572f
c53 4 Vss 0.00143493f
r54 75 79 0.652036
r55 73 79 13.7539
r56 51 60 1.16709
r57 51 73 2.75079
r58 46 75 6.16843
r59 43 46 1.16709
r60 36 60 0.0238214
r61 36 37 2.334
r62 33 36 2.20433
r63 29 31 4.53833
r64 26 37 0.00605528
r65 25 31 0.00605528
r66 22 33 0.00605528
r67 21 29 0.00605528
r68 11 26 5.1348
r69 11 22 5.1348
r70 7 11 17.9718
r71 7 25 5.1348
r72 7 11 17.9718
r73 7 21 5.1348
r74 4 43 0.123773
r75 2 43 0.123773
.ends

.subckt PM_G5_XOR3_N3_B 2 4 6 8 16 17 24 26 33 38 42 45 50 55 60 65 73 74 80 86
+ 91 92 Vss
c69 92 Vss 2.0377e-19
c70 91 Vss 6.9543e-19
c71 86 Vss 8.47373e-19
c72 80 Vss 9.51093e-19
c73 74 Vss 5.10711e-19
c74 73 Vss 0.00481884f
c75 65 Vss 0.00266055f
c76 60 Vss 0.00231285f
c77 55 Vss 0.00437951f
c78 50 Vss 0.00146415f
c79 45 Vss 4.84439e-19
c80 42 Vss 7.72719e-19
c81 38 Vss 7.58106e-19
c82 33 Vss 9.01088e-20
c83 26 Vss 0.166484f
c84 24 Vss 1.01938e-19
c85 20 Vss 0.0247918f
c86 17 Vss 0.0340157f
c87 16 Vss 0.186033f
c88 8 Vss 0.166484f
c89 4 Vss 0.180512f
c90 2 Vss 0.191454f
r91 90 92 0.655813
r92 90 91 3.501
r93 86 91 0.655813
r94 73 80 0.0685365
r95 73 74 10.3363
r96 69 74 0.652036
r97 50 65 1.16709
r98 50 92 2.00578
r99 45 60 1.16709
r100 45 86 2.00578
r101 45 80 2.04225
r102 38 55 1.16709
r103 38 69 2.20896
r104 38 42 0.0729375
r105 36 55 0.0476429
r106 33 65 0.50025
r107 26 60 0.50025
r108 24 55 0.357321
r109 20 36 0.326018
r110 20 24 0.40845
r111 17 36 6.7686
r112 16 36 0.326018
r113 16 36 0.1167
r114 13 17 0.652036
r115 8 33 4.37625
r116 6 26 4.37625
r117 4 24 4.72635
r118 2 13 5.1348
.ends

.subckt PM_G5_XOR3_N3_Z 2 4 6 8 23 27 30 33 Vss
c32 30 Vss 0.00377706f
c33 27 Vss 0.00795274f
c34 23 Vss 0.00720799f
c35 8 Vss 0.00143493f
c36 6 Vss 0.00334888f
r37 33 35 7.21039
r38 30 40 1.16709
r39 30 33 5.62661
r40 27 35 1.16709
r41 23 40 0.05
r42 8 27 0.123773
r43 6 23 0.123773
r44 4 27 0.123773
r45 2 23 0.123773
.ends

